US05302591
Step A: (2-Aminophenyl)-(pyridin-4-yl)methanone
A 1M solution of boron trichloride (in dichloromethane, 130 ml, 130 mmol) was added dropwise to a stirred, cooled (0° C.) solution of aniline (10.92 ml, 120 mmol) in 1,1,2,2-tetrachloroethane (160 ml). After addition a solution of 4-cyanopyridine (16.63 g, 160 mmol) in 1,1,2,2-tetrachloroethane (240 ml) was added followed by solid aluminium trichloride (17.33 g, 130 mmol) and further 1,1,4,4-tetrachloroethane (100 ml). The reaction mixture was heated to 100° C. for 6 hours, cooled to 0° C. then treated cautiously with 2M hydrochloric acid (100 ml). After addition the mixture was heated at 100° C. for 30 minutes, cooled to room temperature then basified with 2M sodium hydroxide solution. The organic layer was separated and the aqueous exhaustively extracted with dichloromethane. The combined organics were dried (sodium sulphate) and evaporated to give the crude product which was triturated with propan-2-ol to afford the title compound as a yellow solid (8.22 g, 35%). mp 153°-161° C.; IR (nujol) 1620 cm-1 ; 1H NMR (250MHz, CDCl3) δ 6.30 (2H, broad s), 6.60 (1H, ddd, J1 =1Hz, J2 =J3 =8Hz), 6.73 (1H, dd, J1 =1Hz, J2 =8Hz), 7.29-7.37 (2H, m), 7.43 (2H, dd, J1 =2Hz, J2 =4.5Hz), 8.75 (2H, dd, J1 =2Hz, J2 =4.5Hz).

reactant | boron trichloride | 130 mmol, 130 ml | B(Cl)(Cl)Cl | BCl3
reactant | aniline | 120 mmol, 10.92 ml | NC1=CC=CC=C1 | C6H7N
reactant | 4-cyanopyridine | 160 mmol, 16.63 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | aluminium trichloride | 130 mmol, 17.33 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 2M, 100 ml | Cl | ClH
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | 1,1,2,2-tetrachloroethane | 160 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
solvent | 1,1,2,2-tetrachloroethane | 240 ml | ClC(C(Cl)Cl)Cl | C2H2Cl4
product | (2-Aminophenyl)-(pyridin-4-yl)methanone | 8.22 g, 35% | NC1=C(C=CC=C1)C(=O)C1=CC=NC=C1 | C12H10N2O
